US05993780
a. 5-[N-(2-Acetoxyethyl)-2,2-dimethyl-1,3-dioxolane-4-carbamido]-2,4,6-triiodo-1,3-diacetoxymethylbenzene
5-(2,2-Dimethyl-1,3-dioxolane-4-carbamido)-2,4,6-triiodo-1,3-di-(acetoxymethyl) benzene was alkylated with 2-bromoethyl acetate according to Example 30a. The crude product, containing some O-alkylated material was used directly in next step.

reactant | 5-(2,2-Dimethyl-1,3-dioxolane-4-carbamido)-2,4,6-triiodo-1,3-di-(acetoxymethyl) benzene | CC1(OCC(O1)C(=O)NC=1C(=C(C(=C(C1I)COC(C)=O)I)COC(C)=O)I)C | C18H20I3NO7
reactant | 2-bromoethyl acetate | C(C)(=O)OCCBr | C4H7BrO2
product | 5-[N-(2-Acetoxyethyl)-2,2-dimethyl-1,3-dioxolane-4-carbamido]-2,4,6-triiodo-1,3-diacetoxymethylbenzene | C(C)(=O)OCCN(C(=O)C1OC(OC1)(C)C)C=1C(=C(C(=C(C1I)COC(C)=O)I)COC(C)=O)I | C22H26I3NO9
